US04046900
A sample of 48.8 g of 1-acetyl-4-(4-phenoxybenzoyl)piperidine is refluxed for 6 hours in 6N HCl. Upon cooling a white solid precipitates from solution, is collected, washed with water, then acetone, and dried. The filtrate is extracted with ether, the aqueous phase is basified with sodium hydroxide and extracted with benzene. The benzene is dried, and the solvent is removed under reduced pressure to give a solid which is converted to a hydrochloride. The salt is recrystallized from an ethanol-ether mixture to give a white solid, mp 219°-220° C., 4-(4-phenoxybenzoyl)piperidine hydrochloride.

reactant | 1-acetyl-4-(4-phenoxybenzoyl)piperidine | 48.8 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H21NO3
reactant | HCl | 6N | Cl | ClH
product | 4-(4-phenoxybenzoyl)piperidine hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C(=O)C2CCNCC2)C=C1 | InChI=1S/C18H19NO2.ClH/c20-18(15-10-12-19-13-11-15)14-6-8-17(9-7-14)21-16-4-2-1-3-5-16;/h1-9,15,19H,10-13H2;1H
